US07842701B2
N-{5-(4-methoxybenzyl)-4-oxo-2-[4-(2-piperidin-1-ylethyl)phenyl]-4,5-dihydro-2H-pyrazolo[4,3-c]quinolin-3-yl}acetamide
To a solution of N-{2-[4-(2-hydroxyethyl)phenyl]-5-(4-methoxybenzyl)-4-oxo-4,5-dihydro-2H-pyrazolo[4,3-c]quinolin-3-yl}acetamide (0.2 g) and triethylamine (0.12 ml) in tetrahydrofuran (25 ml) was added dropwise methanesulfonyl chloride (0.048 ml) at 0° C. The solution was stirred at 0° C. for 2 hours and at room temperature for 15 minutes, an aqueous sodium hydrogen carbonate solution was added thereto, and extracted with ethyl acetate. The extract was washed with water and saturated brine, dried and concentrated under reduced pressure. To the residue was added ethanol (30 ml), triethylamine (0.087 ml), piperidine (0.045 ml) and the mixture was refluxed with heating. After 2 hours, piperidine (0.1 ml) was added thereto, and the mixture was stirred with heating for 6 hours. The solvent was distilled off under reduced pressure, ethyl acetate was added thereto, and extracted with 1N hydrochloric acid. The aqueous layer was washed ether, basified by adding a 2N aqueous sodium hydroxide solution, and extracted with ethyl acetate. The extract was washed with saturated brine, dried and concentrated under reduced pressure to obtain the target compound (0.13 g).

reactant | N-{2-[4-(2-hydroxyethyl)phenyl]-5-(4-methoxybenzyl)-4-oxo-4,5-dihydro-2H-pyrazolo[4,3-c]quinolin-3-yl}acetamide | 0.2 g | OCCC1=CC=C(C=C1)N1N=C2C(C(N(C=3C=CC=CC23)CC2=CC=C(C=C2)OC)=O)=C1NC(C)=O | C28H26N4O4
reactant | triethylamine | 0.12 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.048 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | N-{5-(4-methoxybenzyl)-4-oxo-2-[4-(2-piperidin-1-ylethyl)phenyl]-4,5-dihydro-2H-pyrazolo[4,3-c]quinolin-3-yl}acetamide | 0.13 g | COC1=CC=C(CN2C(C=3C(C=4C=CC=CC24)=NN(C3NC(C)=O)C3=CC=C(C=C3)CCN3CCCCC3)=O)C=C1 | C33H35N5O3
